US09227970B2
4-(3-Fluoro-azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide
Using 3-fluoro-azetidine and 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. Off-white solid (150 mg, 76%). MS: m/z=429 (M+H+).

reactant | 3-fluoro-azetidine | FC1CNC1 | C3H6FN
reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
product | 4-(3-Fluoro-azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide | N1(CCOCC1)C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CC(C2)F)C)=N1 | C19H21FN8O3
